### PR TITLE
[Merged by Bors] - feat(Adjoin/Polynomial/Bivariate): IsAlgebraic.adjoin_singleton

### PR DESCRIPTION
**Pull request by xgenereux**
This PR builds up to the following theorem:

- `IsAlgebraic.adjoin_singleton`:
  Given two transcendental elements `a`, `b` over `R`, if one of them, say `a`, is algebraic over
  `R[b]` then `b` is algebraic over `R[a]`.

In particular, it uses maps between `R[a]` and `R[X]` as well of some of the Bivariate polynomial API.

The results are necessary in preparation for the following: Given a function field `K` and `(y : K)` such that
`(hy : Transcendental Fq y)` then we have:
```
FiniteDimensional Fq⟮y⟯ K
```

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Adjoin/Polynomial/Transcendental.lean
Comment (robin-carlier) [inline Mathlib/RingTheory/Adjoin/Polynomial/Transcendental.lean:1]: It seems the content of this file was also recently merged in #35801

Comment (xgenereux) [reply Mathlib/RingTheory/Adjoin/Polynomial/Transcendental.lean:1]: Hi, this PR build on top of another of my PRs #35864. Which indeed has the same results as #35801, hence why I have marked #35864 awaiting author (with the plan to cancel it later today). But I think the rest of this PR on Bivariate is still relevant or am I missing somehing?

Comment (xgenereux) [reply Mathlib/RingTheory/Adjoin/Polynomial/Transcendental.lean:1]: I have rebased on master to use `algEquivOfTranscendental`.

Note that I think it would make more sense to have `algEquivOfTranscendental` in `Adjoin/Polynomial` but it's also not so bad where it is right now.

File: Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean [hunk 1]
```diff
@@ -0,0 +1,89 @@
...
+open Polynomial.Bivariate Algebra Transcendental
+
+variable {R A : Type*} [CommRing R]
+
+section Ring
+
+variable [Ring A] [Algebra R A]
+
+/-- The `AlgEquiv` between `R[X][Y]` and `R[a][Y]` for some transcendental `a`. -/
+def Bivariate.equivAdjoinOfTranscendental (x : A) (hx : Transcendental R x) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]: Can you use a `Bivariate` namespace?

File: Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+    R[X][Y] ≃ₐ[R] (Algebra.adjoin R {x})[X] :=
+  mapAlgEquiv (algEquivOfTranscendental _ x hx)
+
+theorem Bivariate.equivAdjoinOfTranscendental_apply (x : A) (hx : Transcendental R x)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]:
```suggestion
theorem Bivariate.equivAdjoinOfTranscendental_apply {x : A} (hx : Transcendental R x)
```
If you want. Also maybe we want `Trascendental.` in the name, to have dot notation.

File: Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+    (p : R[X][Y]) :
+  equivAdjoinOfTranscendental x hx p = mapAlgHom
+    (aeval (R := R) (A := Algebra.adjoin R {x}) ⟨x, Algebra.self_mem_adjoin_singleton R x⟩) p := rfl
+
+attribute [local instance] algebra in
+theorem Bivariate.equivAdjoinOfTranscendental_swap_eq_aeval (x : A) (p : R[X][Y])
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]: Same as above.

File: Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean [hunk 4]
```diff
@@ -0,0 +1,89 @@
...
+end Ring
+
+section CommRing
+
+variable [CommRing A] [Algebra R A]
+
+variable {B : Type*} [CommRing B] [Algebra A B] [Algebra R B] [IsScalarTower R A B]
+
+attribute [local instance] Polynomial.algebra in
+theorem Bivariate.aeval_aeval_eq_aeval_equivAdjoinOfTranscendental (x : A) (y : B)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]: Same.

File: Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean [hunk 5]
```diff
@@ -0,0 +1,89 @@
...
+    (hx : Transcendental R x) (p : R[X][Y]) :
+    aeval (algebraMap A B x) (aeval (C (⟨y, Algebra.self_mem_adjoin_singleton R y⟩ :
+      Algebra.adjoin R {y})) p) = aeval y (equivAdjoinOfTranscendental x hx p) := by
+  induction p using Polynomial.induction_on' with
+  | add p q hp hq => simp_all [map_add]
+  | monomial n a =>
+    simp_all [aeval_algebraMap_apply, Bivariate.equivAdjoinOfTranscendental,
+      Subalgebra.algebraMap_def]
+
+theorem _root_.IsAlgebraic.adjoin_singleton {x : A} {y : B} (hx : Transcendental R x)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean:66]: Same.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean (hunk 2 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]: I am interested, may I ask what you mean by this?

In my understanding, to write something `hx.algEquivAdjoin` the full name would need to be `Transcendental.algEquivAdjoin`, and not `Polynomial.Bivariate.Transcendental.algEquivAdjoin_apply`. Is this what you are suggesting?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]: I may be wrong, but doesn't it work with the namespace opened?

Comment (xgenereux) [reply Mathlib/RingTheory/Adjoin/Polynomial/Bivariate.lean]: You're right, I was trying with `open Polynomial.Bivariate` which did not work for some reason. But `open Polynomial Bivariate` seem to work.
